US06492401B1
[1-(3-Chlorophenyl)-5-methyl-1H-pyrazole-4-carbonyl]guanidine hydrochloride
A mixture of 5-methyl-1-(3-chlorophenyl)pyrazole-4-carboxylic acid (234 mg, 1.0 mmol) and 5 ml SOCl2 was heated to reflux for 45 min. Excess SOCl2 was removed in vacuo via codistillation with toluene. The residue was dissolved in 2mL of anhydrous THF and added dropwise over 30 minutes to a vigorously stirred 40° C. solution of guanidine hydrochloride (344 mg, 3.6 mol) in 3.25 mL 2 N NaOH and 1.9 mL THF. The resulting mixture was heated to reflux for 4 hours and then cooled. The organic solvent was removed in vacuo. The residue was diluted with 10 mL 1 N NaOH and extracted with 5×5 mL EtOAc. The combined organic layers were dried (Na2SO4) filtered and concentrated in vacuo to a white solid. This material was dissolved in 1 mL MeOH and 18.4 μL 12 N HCl was added with stirring. The solvents were removed in vacuo with toluene azeotropes and the resulting solid was stirred in 1 mL ether/acetone (1:1) and filtered to remove residual H2O. Drying under high vacuum at 40° C. afforded the desired product (20 mg, 6%).

reactant | 5-methyl-1-(3-chlorophenyl)pyrazole-4-carboxylic acid | 1.0 mmol, 234 mg | CC1=C(C=NN1C1=CC(=CC=C1)Cl)C(=O)O | C11H9ClN2O2
reactant | SOCl2 | 5 ml | O=S(Cl)Cl | Cl2OS
reactant | guanidine hydrochloride | 3.6 mol, 344 mg | Cl.NC(=N)N
solvent | NaOH | 2 N, 3.25 mL | [OH-].[Na+]
solvent | THF | 1.9 mL | C1CCOC1 | C4H8O
product | [1-(3-Chlorophenyl)-5-methyl-1H-pyrazole-4-carbonyl]guanidine hydrochloride | 20 mg, 6% | Cl.ClC=1C=C(C=CC1)N1N=CC(=C1C)C(=O)NC(=N)N | InChI=1S/C12H12ClN5O.ClH/c1-7-10(11(19)17-12(14)15)6-16-18(7)9-4-2-3-8(13)5-9;/h2-6H,1H3,(H4,14,15,17,19);1H
